US07074800B1
A solution of 4-chloro-6-methoxy-7-(2-(1-methylpiperidin-4-yl)ethoxy)quinazoline (300 mg, 0.9 mmol) and 4-fluoro-5-hydroxyindole (162 mg, 1 mmol), (prepared as described for the starting material in Example 242), in DMF (4.5 ml) containing potassium carbonate (185 mg, 1.3 mmol) was stirred at 90° C. for 1 hour. After cooling, the mixture was filtered and the solid was washed with DMF. The filtrate was evaporated and the residue was purified by column chromatography, eluting with methylene chloride followed by methanol/methylene chloride (1/99) followed by methanol saturated with ammonia/methylene chloride (2/98). The fractions containing the expected product were combined and evaporated. The solid was triturated with ether, filtered, washed with ether and dried under vacuum to give 4-(4-fluoroindol-5-yloxy)-6-methoxy-7-(2-(1-methylpiperidin-4-yl)ethoxy)quinazoline (282 mg, 69%).

reactant | 4-chloro-6-methoxy-7-(2-(1-methylpiperidin-4-yl)ethoxy)quinazoline | 0.9 mmol, 300 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCC1CCN(CC1)C | C17H22ClN3O2
reactant | 4-fluoro-5-hydroxyindole | 1 mmol, 162 mg | FC1=C2C=CNC2=CC=C1O | C8H6FNO
reactant | potassium carbonate | 1.3 mmol, 185 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
product | 4-(4-fluoroindol-5-yloxy)-6-methoxy-7-(2-(1-methylpiperidin-4-yl)ethoxy)quinazoline | 282 mg, 69% | FC1=C2C=CNC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCC1CCN(CC1)C | C25H27FN4O3
